US09212141B2
In a typical reaction, 4-((3-chloro-6-(4-chlorophenyl)-2-(diethoxymethyl)-5-fluoropyridin-4-yl)imino)cyclohexa-2,5-dienone is treated with a 1 M (molar) solution of sulfuric acid in a mixture of acetonitrile/water. The mixture is heated at reflux until the reaction is complete. The mixture is added to methylene chloride, and the organic layer is separated, washed with brine and dried. The solvent is evaporated to provide crude 4-amino-3-chloro-6-(4-chlorophenyl)-5-fluoropicolinaldehyde.

reactant | 4-((3-chloro-6-(4-chlorophenyl)-2-(diethoxymethyl)-5-fluoropyridin-4-yl)imino)cyclohexa-2,5-dienone | ClC=1C(=NC(=C(C1N=C1C=CC(C=C1)=O)F)C1=CC=C(C=C1)Cl)C(OCC)OCC | C22H19Cl2FN2O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetonitrile water | C(C)#N.O
product | 4-amino-3-chloro-6-(4-chlorophenyl)-5-fluoropicolinaldehyde | NC1=C(C(=NC(=C1F)C1=CC=C(C=C1)Cl)C=O)Cl | C12H7Cl2FN2O
